US04561862
3-Ethyl-1-pentene (15 mL, 0.11 moles) and concentrated nitric acid (9.6 mL, 0.15 moles) were mixed together at room temperature then with rapid stirring, heated to 70° C. for 4 hours. Heat was removed and stirring continued an additional 30 min. The organic layer was separated and washed with a saturated sodium chloride solution (3×15 mL) then dried over magnesium sulfate. After filtering, vacuum distillation (20 Torr, 28° C.) removed unreacted 3-ethyl-1-pentene. The remaining yellow oil contains 3-ethyl-1-nitro-2-pentene (12% yield) and a small amount of 3-ethyl-2-pentylnitrate. This was confirmed by IR and GC analysis.

reactant | 3-Ethyl-1-pentene | 0.11 moles, 15 mL | C(C)C(C=C)CC | C7H14
reactant | nitric acid | 0.15 moles, 9.6 mL | [N+](=O)(O)[O-] | HNO3
product | 3-ethyl-1-nitro-2-pentene | 12% yield | C(C)C(=CC[N+](=O)[O-])CC | C7H13NO2
